US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(2-benzothiazolyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one-8-boronic acid (178 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 2-chlorobenzothiazole (110 mg, 0.65 mmol), 0.65 mL of aqueous 2M sodium carbonate solution and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 18 h. The mixture was cooled, diluted with chloroform (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent) to give 107 mg /45%) of the title compound as an amorphous solid. mp 207°-212°. FDMS: m/e=362. α[D]589 =+88.83 (c=0.60, chloroform).

reactant | 2-chlorobenzothiazole | 0.65 mmol, 110 mg | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-(2-benzothiazolyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C=3SC1=C(N3)C=CC=C1)C)=O | C22H22N2OS
